US04323633
2-nitro-4-n-butylaniline intermediate compound 150 g of a 4-n-butyl-aniline were treated with 300 ml of acetic anhydride at 70° C. for 1 hour and then cooled to 10° C. After filtering the solid product on a Buchner funnel and drying at 60° C. under vacuum, 183 g of 4-n-butyl-acetanilide were obtained. 183 g of 4-n-butylacetanilide were dissolved in 300 ml of acetic acid and this solution, cooled at 5°-10° C., was added to a wellstirred mixture obtained by mixing 123 ml of nitric acid at a density of 1.4 and 325 ml of nitric acid at a density of 1.52. The temperature was kept below 5° C. during the whole addition and at the end the stirring was continued for 4 hours. The reaction mixture was then poured into 4 liters of ice and water under stirring, thus obtaining a yellow solid product that was filtered on a Buchner funnel and purified by recrystallization from ethanol. 217.4 g of 2-nitro-4-n-butyl-acetanilide were obtained and treated with 1,500 ml of toluolated ethanol and 600 ml of concentrated hydrochloric acid. The solution obtained was heated to reflux for two hours and the solvents removed under vacuum using a rotary evaporator. The oil residue, the analysis of which is reported hereinbelow, was used for the preparation of compound 1 without further purification.

reactant | 4-n-butylacetanilide | 183 g | CCCCCC(=O)NC1=CC=CC=C1 | C12H17NO
reactant | nitric acid | 123 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 325 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2-nitro-4-n-butyl-acetanilide | 217.4 g | [N+](=O)([O-])C(C)CCCC(=O)NC1=CC=CC=C1 | C12H16N2O3
